US08357707B2
Stage Q.1: (2S,4S)-4-Dimethylamino-pyrrolidine-2-carboxylic acid butyl ester
Concentrated HCl (0.3 ml) was added to a mixture of (2S,4S)-4-dimethylamino-pyrrolidine-2-carboxylic acid methyl ester dihydrochloride (400 mg) and 1-butanol (4 ml) and heated for 18 h at 115° C. After cooling the RM was evaporated then partitioned between DCM and aqueous NaHCO3 solution and the DCM layers dried and evaporated to give the title compound as a brown oil which was used without further purification.

reactant | HCl | 0.3 ml | Cl | ClH
reactant | (2S,4S)-4-dimethylamino-pyrrolidine-2-carboxylic acid methyl ester dihydrochloride | 400 mg | Cl.Cl.COC(=O)[C@H]1NC[C@H](C1)N(C)C
reactant | 1-butanol | 4 ml | C(CCC)O | C4H10O
product | (2S,4S)-4-Dimethylamino-pyrrolidine-2-carboxylic acid butyl ester | C(CCC)OC(=O)[C@H]1NC[C@H](C1)N(C)C | C11H22N2O2
